US07101886B2
N-{2-[3-(4-1,2-Benzisothiazol-3-yl-piperazin-1-yl)-propyl]-phenyl}-2-fluoro-benzenesulfonamide was prepared according to the procedure outlined in Example 44, starting with 2-[3-(4-1,2-benzisothiazol-3-yl-piperazin-1-yl)-propyl]-phenylamine (150 mg) and 2-fluorobenzenesulfonyl chloride (55 mg). The resultant white solid was purified using an ISCO autocolumn eluting with 100% ethyl acetate. N-{2-[3-(4-1,2-Benzisothiazol-3-yl-piperazin-1-yl)-propyl]-phenyl}-2-fluoro-benzenesulfonamide was isolated in 100% purity @ 254 nm; LCMS (APCI): 511 [M+H]+.

reactant | 2-[3-(4-1,2-benzisothiazol-3-yl-piperazin-1-yl)-propyl]-phenylamine | 150 mg | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCCC2=C(C=CC=C2)N | C20H24N4S
reactant | 2-fluorobenzenesulfonyl chloride | 55 mg | FC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClFO2S
product | N-{2-[3-(4-1,2-Benzisothiazol-3-yl-piperazin-1-yl)-propyl]-phenyl}-2-fluoro-benzenesulfonamide | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCCC2=C(C=CC=C2)NS(=O)(=O)C2=C(C=CC=C2)F | C26H27FN4O2S2
